US07265108B2
2-tert-Butoxy-4-[2-[4-(2-fluorophenoxymethyl)piperidino]ethyl]pyrimidine
After dissolving 221 mg of 2-tert-butoxy-4-vinylpyrimidine and 200 mg of 4-(2-fluorophenoxymethyl)piperidine hydrochloride in 5 ml of ethanol, 123 mg of anhydrous potassium carbonate was added and the mixture was heated to reflux for 50 minutes. Ethyl acetate was added to the reaction mixture, the insoluble portion was filtered off, and the filtrate was concentrated under reduced pressure. The residue was purified by NH silica gel column chromatography (solvent: n-hexane/ethyl acetate) to obtain the title compound (293 mg, 93% yield).

reactant | 2-tert-butoxy-4-vinylpyrimidine | 221 mg | C(C)(C)(C)OC1=NC=CC(=N1)C=C | C10H14N2O
reactant | 4-(2-fluorophenoxymethyl)piperidine hydrochloride | 200 mg | Cl.FC1=C(OCC2CCNCC2)C=CC=C1
reactant | potassium carbonate | 123 mg | C([O-])([O-])=O.[K+].[K+]
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 2-tert-Butoxy-4-[2-[4-(2-fluorophenoxymethyl)piperidino]ethyl]pyrimidine | 293 mg, 93% yield | C(C)(C)(C)OC1=NC=CC(=N1)CCN1CCC(CC1)COC1=C(C=CC=C1)F | C22H30FN3O2
